US06048885
2-Bromomethyl-α-methoxyiminophenylacetonitrile (5.0 g, 20 mmol) and 3-chlorophenol (3.0 g, 23 mmol) were dissolved in N,N-dimethylformamide (25 ml), and the mixture was stirred at room temperature for 2 hours in the presence of potassium carbonate (3.3 g, 24 mmol). After completion of the reaction, diethyl ether (ca. 100 ml) was added to the reaction mixture, and the mixture was washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) and crystallized from diethyl ether/n-hexane to give 2-(3-chlorophenoxymethyl)-α-methoxyiminophenylacetonitrile (3.7 g, 62%) as colorless crystals.

reactant | 2-Bromomethyl-α-methoxyiminophenylacetonitrile | 20 mmol, 5.0 g | BrCC1=C(C=CC=C1)C(C#N)=NOC | C10H9BrN2O
reactant | 3-chlorophenol | 23 mmol, 3.0 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | ca. 100 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(3-chlorophenoxymethyl)-α-methoxyiminophenylacetonitrile | 3.7 g, 62% | ClC=1C=C(OCC2=C(C=CC=C2)C(C#N)=NOC)C=CC1 | C16H13ClN2O2
